US07696223B2
d) 2-[(tert-Butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-1-phenyl-1H-indole-3-carboxylic acid ethyl ester
Prepared in analogy to that of Example 1(c) from 2-bromomethyl-1-phenyl-1H-indole-3-carboxylic acid ethyl ester and tert-butoxycarbonylamino-acetic acid ethyl ester. The title compound, ESI MS (m/z): 503 (M+Na+).

reactant | 2-bromomethyl-1-phenyl-1H-indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)CBr | C18H16BrNO2
reactant | tert-butoxycarbonylamino-acetic acid ethyl ester | C(C)OC(CNC(=O)OC(C)(C)C)=O | C9H17NO4
product | 2-[(tert-Butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-1-phenyl-1H-indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)CN(CC(=O)OCC)C(=O)OC(C)(C)C | C27H32N2O6
